US07479502B2
Proceeding as in Reference 8, but substituting 4-hydroxyphenylacetonitrile (2.09 g, 15 mmol) and formaldehyde (3.6 g, 120 mmol) gave 3-formyl-4-hydroxyphenylacetonitrile (1.8 g).

reactant | 4-hydroxyphenylacetonitrile | 15 mmol, 2.09 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | formaldehyde | 120 mmol, 3.6 g | C=O | CH2O
product | 3-formyl-4-hydroxyphenylacetonitrile | 1.8 g | C(=O)C=1C=C(C=CC1O)CC#N | C9H7NO2
